US07019022B2
Step 7: methyl[(1R)-6-fluoro-8-(methylsulfonyl)-2,3,4,9-tetrahydro-1H-carbazol-1-yl]acetate
To a solution of [(1R)-9-[(1S)-1-(4-chlorophenyl)ethyl]-6-fluoro-8-(methylsulfonyl)-2,3,4,9-tetrahydro-1H-carbazol-1-yl]acetic acid ([α]D=−226° in MeOH) in MeOH (0.1M) was added 10% palladium on carbon (10% wt/wt). A stream of N2 was bubbled through the mixture for 5 min. The reaction was stirred at rt under H2 atmosphere (balloon) for 24 hrs and filtered through a celite pad eluted with CH2Cl2. The solvents were removed by evaporation under reduced pressure and the residue was swished in MeOH to give the title compound.

reactant | [(1R)-9-[(1S)-1-(4-chlorophenyl)ethyl]-6-fluoro-8-(methylsulfonyl)-2,3,4,9-tetrahydro-1H-carbazol-1-yl]acetic acid | ClC1=CC=C(C=C1)[C@H](C)N1C2=C(C=C(C=C2C=2CCC[C@@H](C12)CC(=O)O)F)S(=O)(=O)C | C23H23ClFNO4S
reactant | MeOH | 0.1M | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | methyl[(1R)-6-fluoro-8-(methylsulfonyl)-2,3,4,9-tetrahydro-1H-carbazol-1-yl]acetate | COC(C[C@H]1CCCC=2C3=CC(=CC(=C3NC12)S(=O)(=O)C)F)=O | C16H18FNO4S
